US08003798B2
165. 5-((2R,4aR,10bR)-9-Ethoxy-2-hydroxy-8-methoxy-1,2,3,4,4a,10b-hexahydro-phenanthridin-6-yl)-pyridine-2-carboxylic acid
Analogously as described for Example 35 acidic acid (2R,4aR,10bR)-6-(6-cyano-pyridin-3-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a,10b-hexahydro-phenanthridin-2-yl ester (compound 172) is converted in a first step into the corresponding imino ester 5-((2R,4aR,10bR)-9-ethoxy-2-hydroxy-8-methoxy-1,2,3,4,4a,10b-hexahydro-phenanthridin-6-yl)-pyridine-2-carboximidic acid methyl ester. In a second step, 443 mg (1.08 mmol) of 5-((2R,4aR,10bR)-9-ethoxy-2-hydroxy-8-methoxy-1,2,3,4,4a,10b-hexahydro-phenanthridin-6-yl)-pyridine-2-carboximidic acid methyl ester are dissolved in 3 ml of THF. A solution of 51 mg (2.16 mmol) LiOH.H2O is added and the solution stirred at 60° C. for 18 hrs. The pH is adjusted to 5 using phosphoric acid and Disodiumhydrogenphosphate. The solvent is removed and the solid residue extracted with chloroform/methanol. After filtering off and removing the volatiles 350 mg (82%) of the title compound are obtained.

reactant | 5-((2R,4aR,10bR)-9-ethoxy-2-hydroxy-8-methoxy-1,2,3,4,4a,10b-hexahydro-phenanthridin-6-yl)-pyridine-2-carboximidic acid methyl ester | 1.08 mmol, 443 mg | COC(=N)C1=NC=C(C=C1)C1=N[C@@H]2CC[C@H](C[C@@H]2C2=CC(=C(C=C12)OC)OCC)O | C23H27N3O4
reactant | LiOH.H2O | 2.16 mmol, 51 mg | O[Li].O
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | Disodiumhydrogenphosphate | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 5-((2R,4aR,10bR)-9-Ethoxy-2-hydroxy-8-methoxy-1,2,3,4,4a,10b-hexahydro-phenanthridin-6-yl)-pyridine-2-carboxylic acid | C(C)OC1=C(C=C2C(=N[C@@H]3CC[C@H](C[C@@H]3C2=C1)O)C=1C=CC(=NC1)C(=O)O)OC | C22H24N2O5
